US04820727
Step (2) Preparation of N-[[2-Fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-Dimethylethyl Ester
Sodium hydride (80% dispersion in mineral oil, 1.81 g, 1.1 eq) was added to a stirred, room temperature solution of N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-dimethylethyl ester (21.98 g, 54.76 mmol) in dry THF (450 mL) under a dry N2 atmosphere. The suspension was heated in a 50° C. oil bath until hydrogen evolution ceased (approximately 2 hours). The reaction mixture was cooled to 0°-5° C. and a solution of methyl chloroformate (5.76 mL, 1.36 eq) in dry THF (150 mL) was added dropwise over a 20 minute period. The reaction mixture was then warmed to room temperature and stirred for 30 minutes. The reaction mixture was quenched with saturated aqueous NH4Cl and diluted with ether (500 mL). Silica gel (100 mL) was added and the solvents were removed in vacuo. The silica absorbate was flash chromatographed (gradient elution 4:1 to 7:3 petroleum ether:ethyl acetate, silica) to provide the title compound as a white solid (18.79 g, 75%) and starting material (3.07 g, 14%). A small portion was recrystallized from petroleum ether:ether for analysis; m.p. 111°-114° C.

reactant | Sodium hydride | 1.81 g, 1.1 eq | [H-].[Na+]
reactant | N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-dimethylethyl ester | 54.76 mmol, 21.98 g | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)NCC(=O)OC(C)(C)C | C19H19F4NO4
reactant | hydrogen | [H][H] | H2
reactant | methyl chloroformate | 5.76 mL, 1.36 eq | ClC(=O)OC | C2H3ClO2
solvent | THF | 450 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-[[2-Fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-Dimethylethyl Ester | 18.79 g, 75% | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OC | C21H21F4NO6
